US08685991B2
Part A. Preparation of 1,3,5-triiodo-2-methoxybenzene
In a 250 mL pressure vessel was added 2,4,6-triiodophenol (5 g, 10.60 mmol) in MTBE (60 ml) to give a yellow solution. The solution was cooled in an ice bath and 2.0M trimethylsilyldiazomethane (7.95 ml, 15.90 mmol) was added at a fast drip followed by dropwise addition of methanol (6 mL) resulting in calm bubbling. The vessel was sealed and stirred at room temperature for 4 h. The reaction solution was partitioned between EtOAc and water and the organic layer was washed with 1M HCl, saturated NaHCO3, and saturated NaCl. The EtOAc was dried (MgSO4), filtered and concentrated to give a tan solid that was used without purification (4.8 g, 94%).

reactant | 2,4,6-triiodophenol | 10.60 mmol, 5 g | IC1=C(C(=CC(=C1)I)I)O | C6H3I3O
reactant | trimethylsilyldiazomethane | 15.90 mmol, 2.0M, 7.95 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | methanol | 6 mL | CO | CH4O
solvent | MTBE | 60 ml | CC(C)(C)OC | C5H12O
product | 1,3,5-triiodo-2-methoxybenzene | IC1=C(C(=CC(=C1)I)I)OC | C7H5I3O
